US07544697B2
A mixture sodium tert-butoxide (23.0 g, 0.240 mol) and ethanol (200 mL) was stirred for 30 minutes at 0° C.; most of the solid was dissolved. A mixture of diethyl oxalate (32.6 mL, 0.240 mol) and 4-hydroxy4-methyl-2-pentanone (25.0 mL, 0.200 mol) was added slowly, and the reaction was stirred for ten minutes at 0° C. before the addition of acetic acid (100 mL). The reaction was warmed to ambient temperature and stirred for ten minutes. Potassium acetate (29.4 g, 0.300 mol) and butylhydrazine oxalate (30.0 g, 0.200 mol) were sequentially added. The reaction was stirred overnight at ambient temperature, and the acetic acid was removed under reduced pressure. The residue was adjusted to pH 14 with the addition of 50% w/w aqueous sodium hydroxide while maintaining the temperature at 0° C. with the addition of ice. The mixture was extracted with dichloromethane; the combined extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by chromatography on a HORIZON HPFC system (65+M cartridge, eluting with 0 to70% ethyl acetate in hexanes) to provide 26 g of ethyl 1-butyl-5-(2-hydroxy-2-methylpropyl)-1H-pyrazole-3-carboxylate as a yellow oil.

reactant | sodium tert-butoxide | 0.240 mol, 23.0 g | CC(C)([O-])C.[Na+]
reactant | diethyl oxalate | 0.240 mol, 32.6 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 4-hydroxy4-methyl-2-pentanone | 0.200 mol, 25.0 mL | OC(CC(C)=O)(C)C | C6H12O2
reactant | Potassium acetate | 0.300 mol, 29.4 g | C(C)(=O)[O-].[K+]
reactant | butylhydrazine oxalate | 0.200 mol, 30.0 g | C(C(=O)O)(=O)O.C(CCC)NN
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | ethyl 1-butyl-5-(2-hydroxy-2-methylpropyl)-1H-pyrazole-3-carboxylate | 26 g | C(CCC)N1N=C(C=C1CC(C)(C)O)C(=O)OCC | C14H24N2O3
